US20010027196A1
2-Amino-4-(4-amino-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and 4-aminobenzylamine in DME. ES-MS m/e (%): 307 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 4-aminobenzylamine | NC1=CC=C(CN)C=C1 | C7H10N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4-amino-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC=C(C=C1)N)C#N)C=1OC=CC1 | C16H14N6O
